************************************************************************
* auCdl Netlist:
* 
* Library Name:  EXAMPLE
* Top Cell Name: INVX1
* View Name:     schematic
* Netlisted on:  Nov 14 19:40:48 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EXAMPLE
* Cell Name:    INVX1
* View Name:    schematic
************************************************************************

.SUBCKT INVX1 A Y gnd vdd
*.PININFO A:B Y:B gnd:B vdd:B
MM0 Y A vdd vdd PMOS_VTL W=5e-07 L=5e-08
MM1 Y A gnd gnd NMOS_VTL W=2.5e-07 L=5e-08
.ENDS

