* File: SRAM.pex.netlist.pex
* Created: Thu Nov 21 16:26:16 2024
* Program "Calibre xRC"
* Version "v2024.3_37.19"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_SRAM_!BL 1 8 10
c18 10 0 0.049531f
c19 1 0 0.00476911f
r20 8 10 4.29464
r21 1 10 102.4
.ends

.subckt PM_SRAM_GND! 1 7 27 32 36 42
c20 42 0 0.0459488f
c21 32 0 0.00334279f
c22 27 0 0.00293046f
c23 7 0 0.00558555f
c24 1 0 0.00565201f
r25 40 42 2.09821
r26 36 40 0.482143
r27 32 42 88.2939
r28 27 40 88.2939
r29 7 32 102.4
r30 1 27 102.4
.ends

.subckt PM_SRAM_BL 1 8 10
c21 10 0 0.0496244f
c22 1 0 0.00408083f
r23 8 10 4.30357
r24 1 10 102.4
.ends

.subckt PM_SRAM_WL 1 2 3 6 13 15 21
c23 21 0 0.035167f
c24 13 0 0.00805936f
c25 6 0 0.0133532f
c26 3 0 0.00805936f
c27 1 0 0.0130528f
r28 15 21 3.30308
r29 15 17 2.16308
r30 13 21 89.3538
r31 10 17 89.3538
r32 6 13 4.7687
r33 3 10 4.7687
r34 2 6 22.23
r35 1 3 22.23
.ends

.subckt PM_SRAM_VDD! 4 7 13
c11 7 0 0.0568217f
r12 4 7 3.43462
r13 4 13 1.21308
.ends

.subckt PM_SRAM_NET2 1 2 10 11 13 15 19 23
c42 23 0 0.00283509f
c43 19 0 0.00886143f
c44 15 0 0.0052567f
c45 13 0 0.0154116f
c46 10 0 0.00607103f
c47 2 0 0.0160416f
c48 1 0 0.0205866f
r49 21 23 0.935385
r50 19 21 0.212317
r51 19 20 2.23615
r52 13 15 2.70385
r53 11 15 0.106158
r54 11 20 0.106158
r55 10 23 89.3538
r56 6 10 4.7687
r57 3 10 4.7687
r58 2 3 24.18
r59 1 6 39.78
.ends

.subckt PM_SRAM_NET9 1 2 10 11 13 17 19 20 21
c39 21 0 0.00541846f
c40 20 0 9.34431e-19
c41 19 0 0.00795172f
c42 17 0 0.00213043f
c43 11 0 0.0155781f
c44 10 0 0.00610586f
c45 2 0 0.0263221f
c46 1 0 0.0110448f
r47 19 20 2.23615
r48 15 20 0.212317
r49 15 17 0.701538
r50 13 21 0.106158
r51 13 19 0.106158
r52 11 21 2.70385
r53 10 17 89.3538
r54 6 10 4.7687
r55 3 10 4.7687
r56 2 3 47.58
r57 1 6 16.38
.ends

