************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE4130_Project
* Top Cell Name: SRAMArray
* View Name:     schematic
* Netlisted on:  Nov 21 00:37:44 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECE4130_Project
* Cell Name:    SRAM
* View Name:    schematic
************************************************************************

.SUBCKT SRAM !BL BL WL
*.PININFO WL:I !BL:B BL:B
MM4 gnd! net9 net2 gnd! NMOS_VTL W=200n L=50n
MM5 net9 net2 gnd! gnd! NMOS_VTL W=200n L=50n
MM3 net2 WL !BL gnd! NMOS_VTL W=175n L=50n
MM2 BL WL net9 gnd! NMOS_VTL W=175n L=50n
MM1 vdd! net9 net2 vdd! PMOS_VTL W=100n L=50n
MM0 net9 net2 vdd! vdd! PMOS_VTL W=100n L=50n
.ENDS

************************************************************************
* Library Name: ECE4130_Project
* Cell Name:    SRAMColumn
* View Name:    schematic
************************************************************************

.SUBCKT SRAMColumn !BL BL WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 
+ WL12 WL13 WL14 WL15 clk
*.PININFO clk:I !BL:B BL:B WL0:B WL1:B WL2:B WL3:B WL4:B WL5:B WL6:B WL7:B 
*.PININFO WL8:B WL9:B WL10:B WL11:B WL12:B WL13:B WL14:B WL15:B
XI17 !BL BL WL8 / SRAM
XI16 !BL BL WL12 / SRAM
XI15 !BL BL WL14 / SRAM
XI14 !BL BL WL15 / SRAM
XI13 !BL BL WL13 / SRAM
XI12 !BL BL WL10 / SRAM
XI11 !BL BL WL11 / SRAM
XI10 !BL BL WL9 / SRAM
XI9 !BL BL WL4 / SRAM
XI8 !BL BL WL6 / SRAM
XI7 !BL BL WL7 / SRAM
XI6 !BL BL WL5 / SRAM
XI5 !BL BL WL2 / SRAM
XI4 !BL BL WL3 / SRAM
XI3 !BL BL WL1 / SRAM
XI0 !BL BL WL0 / SRAM
MM2 vdd! clk !BL vdd! PMOS_VTL W=400n L=50n
MM1 BL clk vdd! vdd! PMOS_VTL W=400n L=50n
MM0 !BL clk BL vdd! PMOS_VTL W=400n L=50n
.ENDS

************************************************************************
* Library Name: ECE4130_Project
* Cell Name:    SRAMArray
* View Name:    schematic
************************************************************************

.SUBCKT SRAMArray !BL0 !BL1 !BL2 !BL3 !BL4 !BL5 !BL6 !BL7 !BL8 !BL9 !BL10 
+ !BL11 !BL12 !BL13 !BL14 !BL15 !BL16 !BL17 !BL18 !BL19 !BL20 !BL21 !BL22 
+ !BL23 !BL24 !BL25 !BL26 !BL27 !BL28 !BL29 !BL30 !BL31 BL0 BL1 BL2 BL3 BL4 
+ BL5 BL6 BL7 BL8 BL9 BL10 BL11 BL12 BL13 BL14 BL15 BL16 BL17 BL18 BL19 BL20 
+ BL21 BL22 BL23 BL24 BL25 BL26 BL27 BL28 BL29 BL30 BL31 WL0 WL1 WL2 WL3 WL4 
+ WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 WL15 clk
*.PININFO WL0:I WL1:I WL2:I WL3:I WL4:I WL5:I WL6:I WL7:I WL8:I WL9:I WL10:I 
*.PININFO WL11:I WL12:I WL13:I WL14:I WL15:I clk:I !BL0:B !BL1:B !BL2:B !BL3:B 
*.PININFO !BL4:B !BL5:B !BL6:B !BL7:B !BL8:B !BL9:B !BL10:B !BL11:B !BL12:B 
*.PININFO !BL13:B !BL14:B !BL15:B !BL16:B !BL17:B !BL18:B !BL19:B !BL20:B 
*.PININFO !BL21:B !BL22:B !BL23:B !BL24:B !BL25:B !BL26:B !BL27:B !BL28:B 
*.PININFO !BL29:B !BL30:B !BL31:B BL0:B BL1:B BL2:B BL3:B BL4:B BL5:B BL6:B 
*.PININFO BL7:B BL8:B BL9:B BL10:B BL11:B BL12:B BL13:B BL14:B BL15:B BL16:B 
*.PININFO BL17:B BL18:B BL19:B BL20:B BL21:B BL22:B BL23:B BL24:B BL25:B 
*.PININFO BL26:B BL27:B BL28:B BL29:B BL30:B BL31:B
XI31 !BL16 BL16 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI30 !BL24 BL24 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI29 !BL28 BL28 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI28 !BL30 BL30 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI27 !BL31 BL31 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI26 !BL29 BL29 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI25 !BL26 BL26 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI24 !BL27 BL27 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI23 !BL25 BL25 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI22 !BL20 BL20 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI21 !BL22 BL22 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI20 !BL23 BL23 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI19 !BL21 BL21 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI18 !BL18 BL18 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI17 !BL19 BL19 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI16 !BL17 BL17 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI15 !BL8 BL8 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI14 !BL12 BL12 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI13 !BL14 BL14 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI12 !BL15 BL15 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI11 !BL13 BL13 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI10 !BL10 BL10 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI9 !BL11 BL11 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 
+ WL14 WL15 clk / SRAMColumn
XI8 !BL9 BL9 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI7 !BL4 BL4 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI6 !BL6 BL6 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI5 !BL7 BL7 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI4 !BL5 BL5 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI3 !BL2 BL2 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI2 !BL3 BL3 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI1 !BL1 BL1 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
XI0 !BL0 BL0 WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 
+ WL15 clk / SRAMColumn
.ENDS

